US05549729
Calcium gluconate:
calcium (ca) acetate, ca carbonate, ca cyclamate, ca glycerophosphate, ca heptagluconate, ca ionophore, ca-magnesium, ca-phosphate, ca-succinate, ca-tartrate, ca sulfate

reactant | calcium | [Ca] | Ca
reactant | acetate | C(C)(=O)[O-]
reactant | carbonate | C([O-])([O-])=O
reactant | cyclamate | C1CCC(CC1)NS(=O)(=O)O | C6H13NO3S
reactant | glycerophosphate | C(C(COP(=O)(O)O)O)O | C3H9O6P
reactant | magnesium | [Mg] | Mg
reactant | phosphate | P(=O)([O-])([O-])[O-]
reactant | succinate | C(CCC(=O)[O-])(=O)[O-]
reactant | tartrate | C(=O)([O-])C(O)C(O)C(=O)[O-]
reactant | sulfate | S(=O)(=O)([O-])[O-]
product | Calcium gluconate | O=C([C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO)[O-].[Ca+2].O=C([C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO)[O-] | InChI=1S/2C6H12O7.Ca/c2*7-1-2(8)3(9)4(10)5(11)6(12)13;/h2*2-5,7-11H,1H2,(H,12,13);/q;;+2/p-2/t2*2-,3-,4+,5-;/m11./s1
